US05883102
(a) 3-Amino-4-nitrobenz[d]isoxazole
To potassium hydroxide (0.58 g, 10.3 mmol) and tert-butyl N-hydroxycarbamate (1.38 g, 10.3 mmol) in DMF (30 iml) was added 2,6-dinitrobenzonitrile (2.0 g, 10.3 nmmol) and the mixture was stirred for 20 h. Water was added. The whole was extracted with ether, the ether was dried (sodium sulphate) and evaporated. Flash column chromatography on silica gel, eluting with ethyl acetate/dichloromethane, gave the product (0.4 g), MS (+CI) 180 ([M+H]+), 1H NMR (CDCl3) 8.13 (1H, d), 7.78 (1H, d), 7.68 (1H, dd), 5.43 (2H, s).

reactant | potassium hydroxide | 10.3 mmol, 0.58 g | [OH-].[K+]
reactant | tert-butyl N-hydroxycarbamate | 10.3 mmol, 1.38 g | ONC(OC(C)(C)C)=O | C5H11NO3
reactant | 2,6-dinitrobenzonitrile | 2.0 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Amino-4-nitrobenz[d]isoxazole | 0.4 g | NC1=NOC2=C1C(=CC=C2)[N+](=O)[O-] | C7H5N3O3
